US05116862
4-Cyclohexyl-1-(pent-4-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane.
In an analogous manner 4-cyclohexyl-1-(hex-5-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane, was prepared from hept-6-ynoic acid.

reactant | 4-cyclohexyl-1-(hex-5-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane | C1(CCCCC1)C12COC(OC1)(OC2)CCCCC#C | C17H26O3
reactant | hept-6-ynoic acid | C(CCCCC#C)(=O)O | C7H10O2
product | 4-Cyclohexyl-1-(pent-4-ynyl)-2,6,7-trioxabicyclo[2.2.2]octane | C1(CCCCC1)C12COC(OC1)(OC2)CCCC#C | C16H24O3
